US08217177B2
A round bottom flask under nitrogen atmosphere was charged with Pd2(dba)3 (578 mg, 0.63 mmol), Xantphos (1.1 g, 1.89 mmol), and sodium tert-butoxide (364 mg, 3.79 mmol). This was purged with Argon followed by addition of 3-bromo-8-chloro-1,5-naphthyridine (615 mg, 2.53 mmol), morpholine (0.22 mL, 2.53 mmol), and toluene (1M, 2.53 mL). This was then placed in a preheated oil bath at 80° C. After 2.5 hours, reaction was stopped, cooled to room temp and diluted with Dichloromethane. This was passed over a celite cake and filtrate concentrated to afford brown oil; which was purified by ISCO silica gel chromatography (40 g, 1% MeOH/DCM over 50 mins) to afford 8-chloro-3-morpholino-1,5-naphthyridine (200 mg, 32% yield). MS[M+H]=250.2. Calc'd for C12H12ClN3O=249.7.

reactant | Xantphos | 1.89 mmol, 1.1 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 3.79 mmol, 364 mg | CC(C)([O-])C.[Na+]
reactant | 3-bromo-8-chloro-1,5-naphthyridine | 2.53 mmol, 615 mg | BrC=1C=NC2=C(C=CN=C2C1)Cl | C8H4BrClN2
reactant | morpholine | 2.53 mmol, 0.22 mL | N1CCOCC1 | C4H9NO
solvent | Dichloromethane | ClCCl | CH2Cl2
catalyst | Pd2(dba)3 | 0.63 mmol, 578 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 1M, 2.53 mL | C1(=CC=CC=C1)C | C7H8
product | 8-chloro-3-morpholino-1,5-naphthyridine | 200 mg, 32% yield | ClC=1C=CN=C2C=C(C=NC12)N1CCOCC1 | C12H12ClN3O
